US08865726B2
A suspension of (S)-5-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1,3,4-oxadiazol-2(3H)-one (42.8 mg, 0.105 mmol) and 2-aminoethanol (19.1 μL, 0.316 mmol) in EtOH (2 mL) was heated to reflux for 22 hours. After the reaction mixture was cooled to ambient temperature, the solvent was removed under reduced pressure. The crude product was flash chromatographed (0-10% MeOH in dichloromethane) to afford 14.4 mg (29%) of (S)—N-(2-hydroxyethyl)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarboxamide. LCMS (APCI−) m/z 466.5 [M−H]+.

reactant | (S)-5-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1,3,4-oxadiazol-2(3H)-one | 0.105 mmol, 42.8 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NNC(O2)=O | C20H18N6O4
reactant | 2-aminoethanol | 0.316 mmol, 19.1 μL | NCCO | C2H7NO
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)—N-(2-hydroxyethyl)-2-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzoyl)hydrazinecarboxamide | 14.4 mg, 29% | OCCNC(=O)NNC(C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O)=O | C22H25N7O5
